US06410534B1
Step A: 1-(tert-Butoxycarbonylamino)-7-[(2-methoxyethoxy)methoxy]naphthalene
To a solution of 8-(tert-butoxycarbonylamino)-2-naphthol, as described in Example 6, Step A, (1.80 g, 6.94 mmol) in dry THF (50 mL), at 0° C., under argon, was added NaH (305 mg of a 60% oil dispersion, 7.64 mmol). The resulting mixture was stirred for 30 min, then 2-methoxyethoxymethyl chloride (0.95 mL, 8.33 mmol) was added. The mixture was allowed to warm slowly and then stirred at ambient temperature for 18 hrs. The reaction mixture was poured into saturated aqueous NH4Cl (100 mL) and CH2Cl2 (250 mL). The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with a gradient of hexane −20% to 50% EtOAc to yield the desired product as a colorless oil.

reactant | 8-(tert-butoxycarbonylamino)-2-naphthol | C(C)(C)(C)OC(=O)NC=1C=CC=C2C=CC(=CC12)O | C15H17NO3
reactant | NaH | [H-].[Na+]
reactant | 2-methoxyethoxymethyl chloride | 8.33 mmol, 0.95 mL | COCCOCCl | C4H9ClO2
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 1-(tert-Butoxycarbonylamino)-7-[(2-methoxyethoxy)methoxy]naphthalene | C(C)(C)(C)OC(=O)NC1=CC=CC2=CC=C(C=C12)OCOCCOC | C19H25NO5
